US08703784B2
N-{1-[7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl]ethyl}-2,2,5-trimethyl-1,3-dioxane-5-carboxamide (370 mg, 0.501 mmol) was dissolved in acetic acid (13 mL). and N-bromosuccinimide (104 mg, 0.585 mmol) was added in a single portion, and the reaction was stirred for 10 min before being quenched with 20% aq. Na2S2O3 (20 mL) and saturated aq. NaHCO3 (60 mL) and EtOAc (50 mL). Solid NaHCO3 was added until the pH was above 5. The layers were separated, and the aqueous was extracted with EtOAc (2×50 mL). The combined organics were washed with brine (50 mL), dried with MgSO4, filtered, and concentrated in vacuo to give N-{1-[7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)-6-bromo-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl]ethyl}-2,2,5-trimethyl-1,3-dioxane-5-carboxamide, which was used without further purification.

reactant | N-{1-[7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl]ethyl}-2,2,5-trimethyl-1,3-dioxane-5-carboxamide | 0.501 mmol, 370 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC1=CC=C(C=C1C2)F)C(C)NC(=O)C2(COC(OC2)(C)C)C)COCC[Si](C)(C)C)(C)C | C37H55FN6O5Si2
reactant | N-bromosuccinimide | 0.585 mmol, 104 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
product | N-{1-[7-(bis{[2-(trimethylsilyl)ethoxy]methyl}amino)-6-bromo-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl]ethyl}-2,2,5-trimethyl-1,3-dioxane-5-carboxamide | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC1=CC=C(C=C1C2)F)C(C)NC(=O)C2(COC(OC2)(C)C)C)Br)COCC[Si](C)(C)C)(C)C | C37H54BrFN6O5Si2
